US08309581B2
6-[5-Chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenoxy]-hexanoic acid ethyl ester
The title compound was prepared in analogy to Example 5, intermediate a, from 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol (Example 19, intermediate a) and (6-bromo-hexanoic acid ethyl ester CAS Reg. No. 25542-62-5). Brown sticky solid (70%). MS (Turbo Spray): m/z=519.0 (M+H).

reactant | 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol | ClC=1C=CC(=C(C1)O)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C20H19ClF2N2O
reactant | 6-bromo-hexanoic acid ethyl ester | C(C)OC(CCCCCBr)=O | C8H15BrO2
product | 6-[5-Chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenoxy]-hexanoic acid ethyl ester | C(C)OC(CCCCCOC1=C(C=CC(=C1)Cl)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F)=O | C28H33ClF2N2O3
